Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CCO[C:1](=[O:2])[c:3]1[cH:4][c:5]2[cH:6][c:7](-[c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)[cH:14][cH:15][c:16]2[nH:17]1>>[CH2:1]([OH:2])[c:3]1[cH:4][c:5]2[cH:6][c:7](-[c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)[cH:14][cH:15][c:16]2[nH:17]1,CC[O:101][C:1](=[O:2])[c:3]1[cH:4][c:5]2[cH:6][c:7](-[c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)[cH:14][cH:15][c:16]2[nH:17]1.[AlH4-:301].[AlH4-:302].[H+:303]>>[CH2:1]([OH:2])[c:3]1[cH:4][c:5]2[cH:6][c:7](-[c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)[cH:14][cH:15][c:16]2[nH:17]1,ester_reduction,"[([301, 301.1], 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 2], 2), (2, 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(=O)[N:1]([CH3:2])[c:3]1[cH:4][cH:5][c:6]2[c:7]([cH:8]1)[n:9][c:10]([C:11]([CH3:12])([CH3:13])[CH3:14])[n:15]2[CH2:16][CH:17]1[CH2:18][CH2:19][CH2:20]1>>[NH:1]([CH3:2])[c:3]1[cH:4][cH:5][c:6]2[c:7]([cH:8]1)[n:9][c:10]([C:11]([CH3:12])([CH3:13])[CH3:14])[n:15]2[CH2:16][CH:17]1[CH2:18][CH2:19][CH2:20]1,[CH3:202][C:101](=[O:201])[N:1]([CH3:2])[c:3]1[cH:4][cH:5][c:6]2[c:7]([cH:8]1)[n:9][c:10]([C:11]([CH3:12])([CH3:13])[CH3:14])[n:15]2[CH2:16][CH:17]1[CH2:18][CH2:19][CH2:20]1.[OH2:301].[H+:302]>>[NH:1]([CH3:2])[c:3]1[cH:4][cH:5][c:6]2[c:7]([cH:8]1)[n:9][c:10]([C:11]([CH3:12])([CH3:13])[CH3:14])[n:15]2[CH2:16][CH:17]1[CH2:18][CH2:19][CH2:20]1,carboxylic_acid_derivative_hydrolysis_or_formation,"[(201, 302), (301, 101), ([101, 201], 201), (1, 301.1), ([301.1, 301], 301), (201, [201, 101]), ([101, 1], 1), ([201.1, 201], 201)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])[c:3]1[n:4][cH:5][c:6]2[cH:7][c:8]([NH:9][C:10](=[O:11])[NH:12][CH:13]3[CH2:14][CH2:15][CH2:16][CH2:17][CH2:18]3)[cH:19][cH:20][c:21]2[c:22]1[OH:23].[NH2:24][CH2:25][CH2:26][C:27](=[O:28])[OH:29]>>[C:1](=[O:2])([c:3]1[n:4][cH:5][c:6]2[cH:7][c:8]([NH:9][C:10](=[O:11])[NH:12][CH:13]3[CH2:14][CH2:15][CH2:16][CH2:17][CH2:18]3)[cH:19][cH:20][c:21]2[c:22]1[OH:23])[NH:24][CH2:25][CH2:26][C:27](=[O:28])[OH:29],CC[O:101][C:1](=[O:2])[c:3]1[n:4][cH:5][c:6]2[cH:7][c:8]([NH:9][C:10](=[O:11])[NH:12][CH:13]3[CH2:14][CH2:15][CH2:16][CH2:17][CH2:18]3)[cH:19][cH:20][c:21]2[c:22]1[OH:23].[NH2:24][CH2:25][CH2:26][C:27](=[O:28])[OH:29]>>[C:1](=[O:2])([c:3]1[n:4][cH:5][c:6]2[cH:7][c:8]([NH:9][C:10](=[O:11])[NH:12][CH:13]3[CH2:14][CH2:15][CH2:16][CH2:17][CH2:18]3)[cH:19][cH:20][c:21]2[c:22]1[OH:23])[NH:24][CH2:25][CH2:26][C:27](=[O:28])[OH:29],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(24, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][c:2]1[cH:3][cH:4][c:5]([Cl:6])[n:7][cH:8]1.[O:9]=[N+:10]([O-:11])[CH:12]=[C:13]1[NH:14][CH2:15][CH2:16][S:17]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([Cl:6])[n:7][cH:8]1)[N:14]1[C:13](=[CH:12][N+:10](=[O:9])[O-:11])[S:17][CH2:16][CH2:15]1,[Cl:101][CH2:1][c:2]1[cH:3][cH:4][c:5]([Cl:6])[n:7][cH:8]1.[O:9]=[N+:10]([OH:11])[CH:12]=[C:13]1[NH:14][CH2:15][CH2:16][S:17]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([Cl:6])[n:7][cH:8]1)[N:14]1[C:13](=[CH:12][N+:10](=[O:9])[OH:11])[S:17][CH2:16][CH2:15]1,SN2,"[(14, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([CH3:2])=[O:3].[CH3:4][CH:5]([CH3:6])[n:7]1[n:8][c:9](-[c:10]2[cH:11][n:12][c:13]([NH2:14])[n:15][c:16]2-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[cH:23][cH:24][c:25]1=[O:26]>>[C:1]([CH3:2])(=[O:3])[NH:14][c:13]1[n:12][cH:11][c:10](-[c:9]2[n:8][n:7]([CH:5]([CH3:4])[CH3:6])[c:25](=[O:26])[cH:24][cH:23]2)[c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[n:15]1,[CH3:4][CH:5]([CH3:6])[n:7]1[n:8][c:9](-[c:10]2[cH:11][n:12][c:13]([NH2:14])[n:15][c:16]2-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[cH:23][cH:24][c:25]1=[O:26].[Cl:101][C:1]([CH3:2])=[O:3]>>[C:1]([CH3:2])(=[O:3])[NH:14][c:13]1[n:12][cH:11][c:10](-[c:9]2[n:8][n:7]([CH:5]([CH3:4])[CH3:6])[c:25](=[O:26])[cH:24][cH:23]2)[c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[n:15]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(14, 1), ([1, 3], 3), (3, [3, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
